US04990511
Condensation between 1-(3-aminopropyl) piperidine (427 mg) and 2,4-dibenzoyloxybenzoic acid (1.0 g) is carried out in the same manner as in Example 7, i) to yield 1-[3-(2,4-dibenzyloxybenzoyl)aminopropyl]piperidine (1.2 g).

reactant | 1-(3-aminopropyl) piperidine | 427 mg | NCCCN1CCCCC1 | C8H18N2
reactant | 2,4-dibenzoyloxybenzoic acid | 1.0 g | C(C1=CC=CC=C1)(=O)OC1=C(C(=O)O)C=CC(=C1)OC(C1=CC=CC=C1)=O | C21H14O6
product | 1-[3-(2,4-dibenzyloxybenzoyl)aminopropyl]piperidine | 1.2 g | C(C1=CC=CC=C1)OC1=C(C(=O)NCCCN2CCCCC2)C=CC(=C1)OCC1=CC=CC=C1 | C29H34N2O3
